US05914402
Preparation of 1-(2-methoxyphenyl)-4-oxo-6-tri fluormethoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline
4-Oxo-6-trifluormethoxy-2,3-dihydrofuro[3,2-c] quinoline (272 mg, 1.0 mmol) was dissolved in 10 ml of ethylene glycol in a pressure tube and 2-methoxyaniline (282 μl, 1.0 mmol) was added under nitrogen. The reaction mixture was heated at 210° C. for 15 hours. The reaction mixture was diluted with 20 ml of salt water and the aqueous layer was extracted with methylene chloride (15 ml×3). After washing with water (15 ml×3), the organic layer was dried by anhydrous magnesium sulfate and filtered, and concentrated under reduced pressure. The residue was purified with ethyl acetate as eluent by silica gel chromatography to obtain 286 mg of desired compound as solid in 76% of yield.

reactant | 4-Oxo-6-trifluormethoxy-2,3-dihydrofuro[3,2-c] quinoline | 1.0 mmol, 272 mg | O=C1N=C2C(=CC=CC2=C2C1CCO2)OC(F)(F)F | C12H8F3NO3
reactant | 2-methoxyaniline | 1.0 mmol, 282 μl | COC1=C(N)C=CC=C1 | C7H9NO
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 1-(2-methoxyphenyl)-4-oxo-6-tri fluormethoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 286 mg | COC1=C(C=CC=C1)N1CCC=2C(NC=3C(=CC=CC3C21)OC(F)(F)F)=O | C19H15F3N2O3
